US05434186
Using the procedure of example 63, 1.78 g (10 mmol) of methyl 2-hydroxycinnamate was alkylated with 2.3 g (11 mmol) of 5-bromopentyl acetate giving (E)-3-[2-[[5-(acetyloxy)pentyl]oxy]phenyl]-2-propenoic acid methyl ester, as a pale-yellow oil, in quantitative yield. The crude product was used without further purification.

reactant | methyl 2-hydroxycinnamate | 10 mmol, 1.78 g | OC1=C(C=CC(=O)OC)C=CC=C1 | C10H10O3
reactant | 5-bromopentyl acetate | 11 mmol, 2.3 g | C(C)(=O)OCCCCCBr | C7H13BrO2
product | (E)-3-[2-[[5-(acetyloxy)pentyl]oxy]phenyl]-2-propenoic acid methyl ester | quantitative yield | COC(\C=C\C1=C(C=CC=C1)OCCCCCOC(C)=O)=O | C17H22O5
